US07407964B2
(S)-6,11-Dioxo-1,2,3,4-tetrahydro-pyridazino[1,2-b]phthalazin-1-carboxylic acid
To a stirred solution of (S)-6,11-dioxo-1,2,3,4-tetrahydro-pyridazino[1,2-b]phthalazin-1-carboxylic acid methyl ester (1.078 g, 3.93 mmol) in MeOH (35 mL) was added KOH (232 mg, 4.12 mmol) in MeOH (11 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 20 hours, then concentrated under reduced pressure. The residue was dissolved in ethyl acetate and the resulting solution was extracted with water. The aqueous phase was acidified with 2.0-M HCl then extracted several times with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was crystallized from diethyl ether and the title compound was obtained as a white solid (744 mg, 73%): 1H NMR (400 MHz, CD3OD) δ 1.80 (1H, m), 1.97 (1H, m), 2.16 (1H, m), 2.56 (1H, m), 3.36 (1H, m), 4.83-4.88 (2H, m), 5.71 (1H, m), 7.90 (2H, m), 8.26 (2H, m).

reactant | (S)-6,11-dioxo-1,2,3,4-tetrahydro-pyridazino[1,2-b]phthalazin-1-carboxylic acid methyl ester | 3.93 mmol, 1.078 g | COC(=O)[C@@H]1CCCN2N1C(C1=CC=CC=C1C2=O)=O | C14H14N2O4
reactant | KOH | 4.12 mmol, 232 mg | [OH-].[K+]
solvent | MeOH | 35 mL | CO | CH4O
solvent | MeOH | 11 mL | CO | CH4O
product | (S)-6,11-Dioxo-1,2,3,4-tetrahydro-pyridazino[1,2-b]phthalazin-1-carboxylic acid | O=C1N2N(C(C3=CC=CC=C13)=O)[C@@H](CCC2)C(=O)O | C13H12N2O4
